US09079919B2
(R)-5-(2′-Amino-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazine]-6-yl)nicotinonitrile
In a manner analogous to that described in Example 1, the cross-coupling reaction of (R)-6-bromo-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazin]-2′-amine (intermediate A6.5) with 5-cyanopyridin-3-ylboronic acid in a 3:1-mixture of 1,2-dimethoxyethane and water as the solvent yielded the title compound as an off-white solid.

reactant | (R)-6-bromo-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazin]-2′-amine | BrC1=CC=C2CC[C@@]3(N=C(OCC3(F)F)N)C2=C1 | C12H11BrF2N2O
reactant | 5-cyanopyridin-3-ylboronic acid | C(#N)C=1C=C(C=NC1)B(O)O | C6H5BN2O2
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | water | O | H2O
product | (R)-5-(2′-Amino-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazine]-6-yl)nicotinonitrile | NC=1OCC([C@@]2(N1)CCC1=CC=C(C=C12)C=1C=NC=C(C#N)C1)(F)F | C18H14F2N4O
